US06812236B2
1-Hexanoyl-3,4-dimethyl-4-(3-formylphenyl)piperidine
To a solution of 1-hexanoyl-3,4-dimethyl-4-(3-vinylphenyl)piperidine (Preparation 8, 2.4 g, 7.67 mmol) in acetone (20 mL) at room temperature was added water (5 mL), 4-methylmorpholine N-oxide (1.1 g, 9.20 mmol) and finally osmium tetroxide (3.83 mL, 2.5 wt % solution in tert-butanol). The yellow solution was stirred at room temperature for 1 hour and then sodium periodate (4.92 g, 23.0 mmol) was added in one portion. After stirring the reaction for 3 hours a heavy precipitate had developed and the reaction mixture was filtered through Celite®, washing with acetone. The filtrate was concentrated in vacuo, the crude oil was dissolved in dichloromethane, dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with ethyl acetate:hexane (1:1). The title compound was isolated as clear oil (2.0 g).

reactant | 1-hexanoyl-3,4-dimethyl-4-(3-vinylphenyl)piperidine | 7.67 mmol, 2.4 g | C(CCCCC)(=O)N1CC(C(CC1)(C1=CC(=CC=C1)C=C)C)C | C21H31NO
reactant | water | 5 mL | O | H2O
reactant | 4-methylmorpholine N-oxide | 9.20 mmol, 1.1 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium periodate | 23.0 mmol, 4.92 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
catalyst | osmium tetroxide | 3.83 mL | [Os](=O)(=O)(=O)=O
product | 1-Hexanoyl-3,4-dimethyl-4-(3-formylphenyl)piperidine | C(CCCCC)(=O)N1CC(C(CC1)(C1=CC(=CC=C1)C=O)C)C | C20H29NO2
